US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(3,4-dichlorophenyl)imidazolidin-2-one
The compound was synthesized as hydrochloride salt starting from 5-aminobenzimidazole (1.18 g, 8.87 mmol), di(1H-imidazol-1-yl)methanone (1.58 g, 9.76 mmol), TEA (3.71, 26.61 mmol), aminomethyl-(3,4-dichlorophenyl)ketone hydrobromide (2.528 g, 8.87 mmol), TEA (2.47 mL, 17.72 mmol), PdC (10%, 0.02 g) as described in method 1.

reactant | 5-aminobenzimidazole | 8.87 mmol, 1.18 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | di(1H-imidazol-1-yl)methanone | 9.76 mmol, 1.58 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | aminomethyl-(3,4-dichlorophenyl)ketone hydrobromide | 8.87 mmol, 2.528 g | Br.NCC(=O)C1=CC(=C(C=C1)Cl)Cl
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(3,4-dichlorophenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC(=C(C=C2)Cl)Cl)=O | C16H12Cl2N4O
